US07220856B2
Preparation of 4-(2-amino-7-chloro-4-quinolinyl)-N-[2-[methyl(phenylmethyl)amino]-2-oxoethyl]-1-piperazinecarboxamide:
To a mixture of [[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-acetic acid (50 mg, 0.14 mmol), N-methylbenzylamine (0.022 mL, 0.17 mmol), iPr2NEt (0.07 mL, 0.50 mmol) in DMF (3 mL) was added HATU (68 mg, 0.18 mmol) and stirred at rt overnight. The reaction mixture was poured into ice-water, and the solid was collected by filtration. The solid was re-dissolved in CH2Cl2 and purified by preparative TLC (CH2Cl2-MeOH-Hexane, 8:2:2) affording the product as a light yellow powder. LC-MS: 467 (M++1). 1H NMR (CDCl3): δ 2.92 and 3.00 (each s, 3H), 3.05˜3.12 (m, 4H), 3.62˜3.72 (m, 4H), 4.12˜4.20 (m, 2H), 4.52 and 4.62 (each s, 2H), 5.08 (br.s, 2H), 5.94 (m, 1H), 6.15 (m, 1H), 7.14˜7.24 (m, 3H), 7.26˜7.40 (m, 3H), 7.58˜7.62 (m, 1H), 7.68˜7.72 (m, 1H).

reactant | [[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-acetic acid | 0.14 mmol, 50 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC(=O)O)Cl | C16H18ClN5O3
reactant | N-methylbenzylamine | 0.17 mmol, 0.022 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | iPr2NEt | 0.50 mmol, 0.07 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.18 mmol, 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(2-amino-7-chloro-4-quinolinyl)-N-[2-[methyl(phenylmethyl)amino]-2-oxoethyl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC(=O)N(CC1=CC=CC=C1)C)Cl | C24H27ClN6O2
